US06900216B2
Sodium carbonate (9.29 g) was added at 0° C. to a stirred suspension of 3-(benzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (19.0 g) in a mixture of dichloromethane (300 ml) and water (300 ml). The mixture was stirred at ambient temperature for 3 hours, then the organic phase was separated, washed with water (200 ml) and saturated aqueous sodium chloride solution (200 ml), dried (Na2SO4) and the solvents were removed in vacuo to give 3-(benzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole as a brown solid (13.1 g) which was used without further purification.

reactant | Sodium carbonate | 9.29 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(benzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 19.0 g | Br.S1C2=C(C=C1C=1N3C(SC1)=NCC3)C=CC=C2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | 3-(benzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole | 13.1 g | S1C2=C(C=C1C=1N3C(SC1)=NCC3)C=CC=C2 | C13H10N2S2
